US07087601B2
To 154 mL of a 50/50 solution of MeOH and H2O was added lithium hydroxide monohydrate (13.85 g, 330 mmol). The solution was stirred until all of the salt dissolved, at which point methyl 3-methoxy-4-pyridin-2-ylbenzoate (8.02 g, 32.9 mmol) was added. The mixture was heated at reflux and stirred overnight. The reaction mixture was cooled to rt, neutralized with 6N HCl, and acidified to pH 4 with 1N HCl. A colorless solid crashed out of solution and was filtered to give 3-methoxy-4-pyridin-2-ylbenzoic acid as a colorless solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.70 (d, 1H), 7.92–7.84 (m, 3H), 7.69–7.65 (m, 2H), 7.40–7.36 (m, 1H), 3.91 (s, 3H).

reactant | MeOH | CO | CH4O
reactant | lithium hydroxide monohydrate | 330 mmol, 13.85 g | O.[OH-].[Li+]
reactant | methyl 3-methoxy-4-pyridin-2-ylbenzoate | 32.9 mmol, 8.02 g | COC=1C=C(C(=O)OC)C=CC1C1=NC=CC=C1 | C14H13NO3
reactant | HCl | 6N | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | H2O | O | H2O
product | 3-methoxy-4-pyridin-2-ylbenzoic acid | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
